US06340759B1
4-(2-Methyl-1,3-dioxolan-2-yl)phenylboric acid (0.41 g) and 3-bromo-1-(4-ethylpiperazin-1-yl)isoquinoline (0.62 g) were reacted in the presence of tetrakistriphenylphosphinepalladium(0) (0.11 g) in toluene (50 ml) and a 10% aqueous solution of sodium carbonate (30 ml) in nitrogen atmosphere at 120° C. for 30 min. The organic layer was separated, washed with brine and dried over magnesium sulfate. The solvent was evaporated, and the resulting residue was purified by silica gel column chromatography (chloroform/methanol system), to give 1-(4-ethylpiperazin-1-yl)-3-[4-(2-methyl-l,3-dioxolan-2-yl)phenyl]isoquinoline.

reactant | 4-(2-Methyl-1,3-dioxolan-2-yl)phenylboric acid | 0.41 g | CC1(OCCO1)C1=CC=C(C=C1)OB(O)O | C10H13BO5
reactant | 3-bromo-1-(4-ethylpiperazin-1-yl)isoquinoline | 0.62 g | BrC=1N=C(C2=CC=CC=C2C1)N1CCN(CC1)CC | C15H18BrN3
reactant | sodium carbonate | 30 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakistriphenylphosphinepalladium(0) | 0.11 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(4-ethylpiperazin-1-yl)-3-[4-(2-methyl-l,3-dioxolan-2-yl)phenyl]isoquinoline | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)C1(OCCO1)C | C25H29N3O2
